US08030300B2
5-(6-Fluoro-1-hexynyl)-3-(1-tert-butoxycarbonyl-2(S) -pyrrolidinylmethoxy)pyridine
A mixture of 5-(6-tosyloxy-1-hexynyl)-3-(1-tert-butoxycarbonyl -2(S)-pyrrolidinylmethoxy)pyridine (195 mg, 0.37 mmol) and in 2 mL of 1.0 M solution of TBAF in THF was stirred at room temperature for 15 h. The reaction mixture concentrated. The residue was purified by chromatography with hexane-EtOAc (3:1) to give a viscous oil (135 mg, 97%), [α]D=−58 (c 0.44, CHCl3). 1H NMR (CDCl3) δ 8.21 (m, 2H), 7.23 (br s, 1H), 4.52 (dt, 2H, J=47.3, 6.0 Hz), 4.14 (br s, 2H), 4.05-3.75 (m, 1H), 3.50-3.25 (m, 2H), 2.49 (t, 2H, J=6.9 Hz), 2.08-1.70 (m, 8H), 1.48 (s, 9H); 13C NMR (CDCl3) δ 154.37, 144.82 and 144.57, 137.38 and 137.08, 123.03, 121.03, 83.56 (d, J=165.2 Hz), 79.53, 68.65 and 68.41, 55.99 and 55.62, 46.97 and 46.60, 29.67 and 29.41, 28.51, 28.03, 24.32 (d, J=4.5 Hz), 23.87, 22.82, 19.04; 19F NMR (CDCl3, CFCl3) δ 131.0 (tt, J=47.3, 24.4 Hz).

reactant | 5-(6-tosyloxy-1-hexynyl)-3-(1-tert-butoxycarbonyl -2(S)-pyrrolidinylmethoxy)pyridine | 0.37 mmol, 195 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCC#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C28H36N2O6S
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | 5-(6-Fluoro-1-hexynyl)-3-(1-tert-butoxycarbonyl-2(S) -pyrrolidinylmethoxy)pyridine | 135 mg, 97% | FCCCCC#CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C21H29FN2O3
